US08314087B2
2-(2-((7-Methoxy-1,5-naphthyridin-4-yl)(methyl)amino)ethyl)-6-(4-methylthiophen-2-yl)pyridazin-3(2H)-one.
A suspension of 2-(2-(methylamino)ethyl)-6-(4-methylthiophen-2-yl)pyridazin-3(2H)-one (275 mg, 1103 μmol) and 8-chloro-3-methoxy-1,5-naphthyridine (193 mg, 993 μmol) in iPrOH (5 mL) was heated to 100° C. for 18 h in an appropriately sealed vial. The mixture was partitioned between CH2Cl2 (30 mL) and 1M NaOH (10 mL), and the organic dried over MgSO4. After concentration under reduced pressure, the organic residue was dissolved in iPrOH (2 mL) and the resulting crystallized solid was washed with iPrOH (2×0.5 mL) then dried under reduced pressure. MS (ESI pos. ion) m/z (MH+): 408. Calc'd exact mass for C21H21N5O2S: 407. 1H NMR (400 MHz, Chloroform-d) δ ppm 2.26 (s, 3 H) 3.22 (s, 3 H) 3.83 (s, 3 H) 4.51 (t, J=5.77 Hz, 2 H) 4.75 (t, J=5.77 Hz, 2 H) 6.55 (d, J=5.52 Hz, 1H) 6.60 (d, J=9.54 Hz, 1 H) 6.91 (s, 1 H) 6.97 (s, 1 H) 7.19 (d, J=9.54 Hz, 1 H) 7.32 (d, J=3.01 Hz, 1 H) 8.32 (d, J=5.52 Hz, 1 H) 8.46 (d, J=2.51 Hz, 1 H).

reactant | 2-(2-(methylamino)ethyl)-6-(4-methylthiophen-2-yl)pyridazin-3(2H)-one | 1103 μmol, 275 mg | CNCCN1N=C(C=CC1=O)C=1SC=C(C1)C | C12H15N3OS
reactant | 8-chloro-3-methoxy-1,5-naphthyridine | 993 μmol, 193 mg | ClC=1C=CN=C2C=C(C=NC12)OC | C9H7ClN2O
solvent | iPrOH | 5 mL | CC(C)O | C3H8O
product | 2-(2-((7-Methoxy-1,5-naphthyridin-4-yl)(methyl)amino)ethyl)-6-(4-methylthiophen-2-yl)pyridazin-3(2H)-one | COC1=CN=C2C(=CC=NC2=C1)N(CCN1N=C(C=CC1=O)C=1SC=C(C1)C)C | C21H21N5O2S
